US06583150B1
1) Synthesis of 4-Azido-5,8-dimethoxyquinoline
16.7 g of NaN3 are added to a solution of 10 g (44.7 mmol) of 4-chloro-5,8-dimethoxyquinoline in a DMF/H2O mixture (160 mL/60 mL). The reaction medium is heated at 90° C. for 2 h 30 min. After cooling, the mixture is hydrolyzed with 500 mL of saturated NH4Cl solution and is extracted with CHCl3 (3 times 150 mL) After drying over MgSO4, the organic phases are concentrated on a rotary evaporator and the DMF is then removed under vacuum (2 mmHg). 8.7 g of azide are obtained in the form of a brown powder.

reactant | NaN3 | 16.7 g | [N-]=[N+]=[N-].[Na+]
reactant | 4-chloro-5,8-dimethoxyquinoline | 44.7 mmol, 10 g | ClC1=CC=NC2=C(C=CC(=C12)OC)OC | C11H10ClNO2
reactant | NH4Cl | 500 mL | [NH4+].[Cl-]
solvent | DMF H2O | 160 mL | CN(C)C=O.O
product | 4-Azido-5,8-dimethoxyquinoline | 8.7 g, Yield: 85% | N(=[N+]=[N-])C1=CC=NC2=C(C=CC(=C12)OC)OC | C11H10N4O2
